US04329518
A stirred solution of 2-chloro-3-methyl-[1,1'-biphenyl] (0.5 g, 0.0023 mole) in 8 ml of carbon tetrachloride was irradiated and heated to reflux with a 250 watt brooder lamp. A small amount of benzoyl peroxide was added and the reaction mixture refluxed for ten minutes. A second portion of benzoyl peroxide (total 0.01 g) was added, followed by N-bromosuccinimide (0.43 g, 0.0024 mole). The stirred reaction mixture was irradiated for 16 hours, then cooled, and then filtered. The filter cake was rinsed with carbon tetrachloride and the combined filtrates washed with aqueous saturated sodium chloride solution. The organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to give 3-bromomethyl-2-chloro-[1,1'-biphenyl] (0.6 g) as an oil.

reactant | 2-chloro-3-methyl-[1,1'-biphenyl] | 0.0023 mole, 0.5 g | ClC1=C(C=CC=C1C)C1=CC=CC=C1 | C13H11Cl
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 0.0024 mole, 0.43 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.01 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-bromomethyl-2-chloro-[1,1'-biphenyl] | 0.6 g | BrCC=1C(=C(C=CC1)C1=CC=CC=C1)Cl | C13H10BrCl
